Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cont. vomiting 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo M ___ cardiomyopathy, atrial fibrillation on Coumadin, DM, 
h/o colon cancer, mitral valve repair who presented to ___ 
___ with 4 days of vomiting and was found to have gastric 
volvulus then transferred to ___ for further evaluation.

Per EMS reports, patient found by neighbors who endorsed black 
vomit. He was taken to ___, where a gastric 
volvulus was found. He was given 1 l fluid, vitamin k, 40mg 
pantoprazole and sent here for further evaluation. OSH labs: H/H 
14.1/___, lactate 4.6

In the ED, initial vital signs were noteable for HR 110. Labs 
were noteable for WBC 12.7, Hb 14.0, Na 152, HCO 38, BUN 85, Cr 
3.3, Glc 243, INR 3.3. CT scan from OSH was uploaded to life 
image, although there is no formal read by our radiology team. 
CT at the OSH revealed "fluid Surgery was consulted and the 
patient was admitted to the surgical service. Warfarin has been 
held and patient has been started on a heparin drip. 

Upon evaluation of the patient, pt reports that he is "okay." He 
cannot tell why he is in the hospital or where he is. He denies 
all symptoms to me [He endorsed emesis, abd pain, vomiting and 
constipation previously], including chest pain, difficulty 
breathing, abdominal pain or nausea. He had self-discontinued 
his NGT. He is amenable to having the NGT replaced. Overall, the 
history is difficult to gather as patient is confused. 

Per son-in-law, patient has been doing well. Pt has reported 
intermittent lightheadedness and dizziness. Pt reported that he 
had vomited a few days ago. ___ got a phone call from neighbor 
saying that ___ "didn't look so well." ___ arrived and pt 
looked tired, lethargic. He watched him eat banana and ___ 
started "raising phlegm from his throat." Then he looked at a 
basket next to the patient and there was vomit. ___ noted that 
he had been vomiting for three days. Denies history of reflux. 
He says that he is very alert, can eat and dress himself. Over 
the past one year, he was noted to have dementia. His license 
was removed as he was found many miles away using his car after 
a car accident. Pt doesn't complain of chest pain or difficulty 
breathing. Per the son-in-law, hernia has been present for many 
years. Per the son-in-law, code status was discussed at ___, 
and Mr. ___ indicated that he would not want to be 
resuscitated or intubated. 

ROS:
Unable to obtain
 
Past Medical History:
Hypertension
Hyperlipidemia
Severe mitral regurgitation/prolapse
Atrial fibrillation, on Coumadin; last dose WED ___
Diabetes type II  
Prostate cancer- elevated PSA (not treated)  
Colon polyps s/p polypectomy
Bilateral Inguinal hernia repair 
remote trauma to leg involving pitchfork 

 
Social History:
___
Family History:
non contributory 

 
Physical Exam:
ADMISSION: 
97.9 110  116/60 16 93%
General: no acute distress, not cachectic, AOx2
CV: systolic murmur, tachycardic, irregular, sternotomy scar 
well
healed
Lungs: clear bilaterally, good inspiratory effort
Abdomen soft, non-tender, non-distended, no palpable masses, no
rebound, no surgical scars
ext: WWP

DISCHARGE:
Vitals: 98.2 PO 149/78, HR ___, RR 18 97-99% RA 
I/O: ___ ; add'nal -175 since MN
General: Older appearing male, no acute distress, lying in bed
HEENT: NCAT, EOMI, tongue w/ white scale less than yesterday, 
wearing dentures today
CV: Irregularly irregular, s1 and s2 heard, no m/r/g are 
appreciated
Lungs: Coarse breath sounds in left lower base, improved from 
yesterday
Abdomen: BS+, soft abdomen, non distended, no rebound or 
guarding
GU: No foley
Ext: Warm, resolving ecchymoses on b/l UE, LLE WWP
Neuro: CN II-XII intact, strength testing limited by 
positioning, but ___ in UE, knee flexion and extension; 
sensation intact to light touch throughout
Psych: AOx1 and city, knows that he is in the hospital for an 
intestinal blockage. Mood is good. 

 
Pertinent Results:
ADMISSION:
=========
___ 06:43PM BLOOD WBC-12.7*# RBC-4.70 Hgb-14.0 Hct-44.8 
MCV-95 MCH-29.8 MCHC-31.3* RDW-16.5* RDWSD-57.8* Plt ___
___ 06:43PM BLOOD Neuts-84* Bands-8* Lymphs-5* Monos-2* 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-11.68* 
AbsLymp-0.64* AbsMono-0.25 AbsEos-0.00* AbsBaso-0.00*
___ 06:43PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 06:43PM BLOOD ___ PTT-29.6 ___
___ 06:43PM BLOOD Glucose-243* UreaN-85* Creat-3.3*# 
Na-152* K-5.0 Cl-91* HCO3-38* AnGap-28*
___ 06:43PM BLOOD ALT-13 AST-63* AlkPhos-57 TotBili-0.8
___ 01:45PM BLOOD CK(CPK)-327*
___ 06:43PM BLOOD cTropnT-0.09*
___ 06:43PM BLOOD Albumin-4.1
___ 04:00AM BLOOD Calcium-9.8 Phos-5.0* Mg-2.6
___ 06:48PM BLOOD Lactate-4.2*
 
OTHER LABS:
==========
___ 04:00AM BLOOD WBC-13.3* RBC-4.07* Hgb-12.1* Hct-39.2* 
MCV-96 MCH-29.7 MCHC-30.9* RDW-16.4* RDWSD-58.1* Plt ___
___ 06:40AM BLOOD WBC-11.5* RBC-3.74* Hgb-11.0* Hct-36.9* 
MCV-99* MCH-29.4 MCHC-29.8* RDW-15.9* RDWSD-57.6* Plt ___
___ 06:15AM BLOOD WBC-10.4* RBC-3.75* Hgb-11.2* Hct-36.2* 
MCV-97 MCH-29.9 MCHC-30.9* RDW-15.5 RDWSD-54.8* Plt ___
___ 05:39PM BLOOD WBC-7.3 RBC-3.73* Hgb-11.0* Hct-35.8* 
MCV-96 MCH-29.5 MCHC-30.7* RDW-15.4 RDWSD-53.4* Plt ___
___ 04:00AM BLOOD Glucose-272* UreaN-93* Creat-4.2* Na-149* 
K-3.1* Cl-93* HCO3-47* AnGap-12
___ 06:15AM BLOOD Glucose-131* UreaN-58* Creat-1.8*# 
Na-147* K-3.1* Cl-102 HCO3-36* AnGap-12
___ 04:00AM BLOOD CK-MB-5 cTropnT-0.11*
___ 01:45PM BLOOD CK-MB-5 cTropnT-0.08* proBNP-3507*
___ 06:40AM BLOOD CK-MB-8 cTropnT-0.06*
___ 06:15AM BLOOD CK-MB-3 cTropnT-0.03*
___ 12:07AM BLOOD Lactate-4.8*
___ 04:09AM BLOOD Lactate-2.6*
___ 01:58PM BLOOD Lactate-1.6
___ 04:01PM URINE Color-Red Appear-Hazy Sp ___
___ 04:01PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-SM  Urobiln-NEG pH-5.0 Leuks-LG
___ 04:01PM URINE RBC->182* WBC-42* Bacteri-FEW Yeast-NONE 
Epi-1
___ 04:01PM URINE CastHy-13*
___ 09:48AM URINE Hours-RANDOM Creat-199 Na-23
 
MICRO:
======
___ 01:45PM BLOOD PROCALCITONIN-Test  3.19 (H)     
___ 4:01 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 4:01 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

___ 6:40 am BLOOD CULTURE

   Blood Culture, Routine (Pending):  No growth x5d
 
 
IMAGING:
=======
___ 2:18 AM
CHEST (PORTABLE AP)
RECOMMENDATION(S):  NG tube tip is prepped acting over the 
distended stomach. Heart size is enlarged but unchanged.  Left 
retrocardiac consolidation is unchanged.  No appreciable 
pulmonary edema is seen.  Sternotomy wires are unremarkable.  
Note is made that the apices were included from the field of 
view.
Old fracture of the right humerus is partially imaged.
 
Portable TTE (Complete) Done ___ at 1:00:00 ___      FINAL
The left atrium is markedly dilated. The right atrium is 
markedly dilated. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Trace aortic regurgitation is seen. A bioprosthetic 
mitral valve prosthesis is present. The mitral prosthesis 
appears well seated, with normal leaflet/disc motion and 
transvalvular gradients. Trivial mitral regurgitation is seen. 
[Due to acoustic shadowing, the severity of mitral regurgitation 
may be significantly UNDERestimated.] There is mild tricuspid 
valve prolapse. Moderate [2+] tricuspid regurgitation is seen. 
The tricuspid regurgitation jet is eccentric and may be 
underestimated. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Low-normal left ventricular systolic function. 
Normally-functioning mitral valve bioprosthesis. TVP with 
moderate tricuspid regurgitation. Mild pulmonary hypertension. 
Marked biatrial dilation. 
Compared with the prior study (images reviewed) of ___, 
there has been an interim mitral valve replacement. LV cavity is 
smaller. The other findings are similar. 
 
DISCHARGE:
==========
___ 06:31AM BLOOD WBC-7.9 RBC-3.73* Hgb-11.1* Hct-34.8* 
MCV-93 MCH-29.8 MCHC-31.9* RDW-15.9* RDWSD-53.4* Plt ___
___ 06:31AM BLOOD ___ PTT-33.0 ___
___ 06:31AM BLOOD Glucose-160* UreaN-27* Creat-1.1 Na-143 
K-4.1 Cl-107 HCO3-25 AnGap-15
___ 06:31AM BLOOD Calcium-7.8* Phos-2.7 Mg-1.7
 
Brief Hospital Course:
SURGERY (ACS) COURSE:
====================
The patient with the above HPI and PE was admitted to the ___ 
service with gastric outlet obstruction  d/t mesoaxial gastric 
volvulus c/b pre-renal azotemia NGT was placed and drained about 
a liter of static content that later became coffee ground.
His lactate trended down and his abdomen soft and non tender ACS 
surgery decided the patient does not need emergency surgery and 
it was agreed upon that the patient will be followed by ___ 
surgery service. Cardiology were consulted to optimize him for 
the possibility of emergent / semi elective surgery. and 
medicine were consulted for his ___.
At the point as there is no surgical emergency the patient will 
be transferred to medicine team and ___ will follow along.

MEDICINE COURSE:
===============
#Volvulus: Continued NGT for decompression. NGT output declined 
to 40cc and it was discontinued on HD3. Diet was advanced as 
tolerated. The patient will have an appointment to discuss 
possible elective hiatal hernia surgery.

___: Pre-renal etiology, possibly intrinsic given significiant 
hypovolemia on presentation. Improved with IVF. Discharge BUN/Cr 
at baseline.

#Metabolic alkalosis/hypernatremia: Consistent with history of 
emesis and poor PO intake x several days. Free water deficit on 
admission from OSH about 3L. Improved with administration of 
___. Daily BMP were followed and other electrolytes 
repleted as necessary. Normalized by the time of discharge.

#Troponinemia: Found to have elevated cardiac biomarkers. Denied 
CP throughout. This was felt to be most likely demand ischemia 
in the setting of his acute illness, T2 NSTEMI. Troponins were 
trended to peak. 

#Community-acquired pneumonia: Imaging findings demonstrated 
consistent retrocardiac and LLL opacities with associated 
pleural effusions. The differential considered was aspiration 
pneumonitis versus CAP. Given the patient's leukocytosis, high 
CURB-65, Ceftriaxone + Azithromycin were initiated (d1 ___ - 
d5 ___. Procalcitonin was sent and returned positive, which 
emphasized the need to continue the antibiotic course for CAP. 
Strep pneumo and legionella antigens returned negative.

#Anticoagulation, #AFib on Coumadin: No rate control as outpt. 
Per medical records on warfarin 2.5mg daily. Monitored on 
telemetry during hospitalization.  On admission, started on 
heparin gtt given possible procedure. However, once the volvulus 
resolved, warfarin was restarted @ 2.5mg daily (d1 ___. For 
the remainder of hospitalization, received SQH for DVT PPX until 
INR > 2.0.

CHRONIC:
========
#T2DM: Held glimepiride and metformin while inpt. ISS in house. 
Restarted home meds on discharge.
#Prostate cancer - ___ 7 per Atrius notes
#h/o MVR - bioprosthetic valve
#CAD, HLD, HTN - holding PO home meds while NPO

TRANSITIONAL ISSUES:
====================
[] antibiotics - two more days of levofloxacin to complete 7d 
course for CAP
[] elective outpatient work-up and possible repair if the 
patient desires if he is able to be advanced now that 
decompressed
[] Code status: Per patient's son, patient is DNR/DNI since last 
hospitalization. This was confirmed in multiple conversations 
including with ___ intern, MERIT, and Medicine intern
[] Cardiology f/u for rate control, HTN mgmt: Had some PVCs in 
setting of acute illness and BPs to 180s/80s. Not on medication 
for either as outpatient. Tolerated metoprolol tartrate 25mg BID 
while inpatient. Please continue medication titration as 
outpatient. 
Important values
BUN/Cr: 27/ 1.1 
Hgb/Hct: 11.1/ 34.___
Expected discharge stay: < 30 days

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 1 mg PO DAILY16 
2. Simvastatin 20 mg PO QPM 
3. glimepiride 8 mg oral BREAKFAST 
4. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
5. PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral DAILY 
6. Lipo-Flavonoid Plus (vitamins-lipotropics) 200-100 mg oral 
DAILY 
7. Melatin (melatonin) 3 mg oral QHS 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q48H Duration: 2 Days 
last dose ___  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Pantoprazole 40 mg PO Q24H  
4.  glimepiride 8 mg oral BREAKFAST  
5.  Lipo-Flavonoid Plus (vitamins-lipotropics) 200-100 mg oral 
DAILY  
6.  Melatin (melatonin) 3 mg oral QHS  
7.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
8.  PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral DAILY  
9.  Simvastatin 20 mg PO QPM  
10.  Warfarin 1 mg PO DAILY16  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
=================
Gastric outlet ___ d/t gastric mesoaxial gastric volvulus
Hiatal hernia type 2
Acute kidney injury
Type 2 non-ST Elevation Myocardial Infarction
Hypernatremia
Toxic-metabolic encephalopathy
Community acquired pneumonia

SECONDARY DIAGNOSES:
====================
Atrial fibrillation on warfarin
Mild cognitive impairment

 
Discharge Condition:
Mental Status: Confused - always (AO to self, long term memory 
intact).
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (___ 
or cane).

 
Discharge Instructions:
Dear Mr ___,

You were transferred to ___ 
with persistent vomiting and were diagnosed with twisting of 
your stomach in a defect that caused a blockage to food.

What was done during this hospitalization?
- Your blood work showed that you were dehydrated, so you were 
given fluids
- You were seen by the surgeons and a nasogastric tube was 
placed to relieve the pressure in your stomach
- Your belly became soft and you were able to eat, drink, 
swallow pills, and move your bowels
- Tests also showed that you had pneumonia. You received 
antibiotics for this.
- You were confused when you arrived at the hospital. Your 
thinking improved as your stomach condition was treated, you 
were rehydrated, and you received antibiotics.
- You were evaluated by a physical therapist who is recommending 
you go to rehab to get your strength back before returning home

What should you do now that you are leaving the hospital?
- Work on getting your strength back
- Continue taking your medications as prescribed
- Return to the hospital if you have new or concerning symptoms, 
listed below
- If you develop nausea and vomiting, you must get an Xray or CT 
scan of your stomach right away. You may have another volvulus 
and this is an emergency.

It was a pleasure taking care of you. Wishing you the best in 
health.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___